US07935716B2
At room temperature, 50.0 g of trimethylsilylazide was added to a mixture of 44.8 g of citraconic anhydride and 60 ml of chloroform. The mixture was stirred at 50-60° C. for 5 hours. After cooling the reaction mixture with an ice, 25.0 g of ethanol was added, followed by stirring for additional 30 minutes. The resulting solid was collected by filtration, and washed with a mixed solvent of chloroform and ethanol to obtain crude 4-methyl-2H-1,3-oxazine-2,6(3H)-dione represented by the formula:

reactant | trimethylsilylazide | 50.0 g | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | citraconic anhydride | 44.8 g | C1(\C(\C)=C/C(=O)O1)=O | C5H4O3
reactant | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 25.0 g | C(C)O | C2H6O
product | 4-methyl-2H-1,3-oxazine-2,6(3H)-dione | CC=1NC(OC(C1)=O)=O | C5H5NO3
